US07332501B2
c) 1′-[(6-Chloro-1H-indol-3-yl)carbonyl]-2,3-dihydrospiro[isoindole-1,4′-piperidine]
To a solution of 0.10 g (0.51 mmol) 6-chloro-1H-indole-3-carboxylic acid in 5 ml dichloromethane were added 0.074 ml (0.56 mmol) 1-chloro-N,N,2-trimethyl-propenylamine at room temperature. The reaction mixture was concentrated in vacuo after 1 h. The residue was redissolved in 2 ml dry N,N-dimethylformamide. A suspension of 0.147 g (0.56 mmol) 2,3-dihydrospiro[isoindole-1,4′-piperidine]dihydrochloride and 0.285 ml (2.04 mmol) triethylamine in 2 ml dry N,N-dimethylformamide was added at room temperature. After stirring for 16 h the reaction mixture was quenched with 1 M aqueous sodium hydroxide solution (30 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layers were washed with water (2×30 ml) and brine (1×30 ml), dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (dichloromethane/methanol) to give the title compound (0.045 g; 24%) as an off-white solid. MS m/e (%): 366 (M+H+, 100).

reactant | 6-chloro-1H-indole-3-carboxylic acid | 0.51 mmol, 0.10 g | ClC1=CC=C2C(=CNC2=C1)C(=O)O | C9H6ClNO2
reactant | 1-chloro-N,N,2-trimethyl-propenylamine | 0.56 mmol, 0.074 ml | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 2,3-dihydrospiro[isoindole-1,4′-piperidine]dihydrochloride | 0.56 mmol, 0.147 g | Cl.Cl.N1CCC2(CC1)NCC1=CC=CC=C12
reactant | triethylamine | 2.04 mmol, 0.285 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1′-[(6-Chloro-1H-indol-3-yl)carbonyl]-2,3-dihydrospiro[isoindole-1,4′-piperidine] | 0.045 g, 24% | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC2(CC1)NCC1=CC=CC=C12 | C21H20ClN3O
